US04472433
A mixture of ethyl 2-(2-nitro-3-chlorophenyl)acetate (15 g.), phenol (6.4 g.), anhydrous potassium carbonate (13 g.) and cupric oxide (4.5 g.) was stirred for 4 hours at 120° C. To the reaction mixture was added water and the mixture was extracted with diethyl ether. The extract was washed with a diluted aqueous solution of potassium carbonate and water, dried over magnesium sulfate and then evaporated under reduced pressure. The oily residue was distilled under reduced pressure to give ethyl 2-(2-nitro-3-phenoxypheny)acetate (5.2 g.) bp 160°-183° C./0.4 mmHg.

reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 15 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | phenol | 6.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | ethyl 2-(2-nitro-3-phenoxypheny)acetate | 5.2 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)OCC | C16H15NO5
